US05935973
A solution of 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione (3.1 g) and 4-(aminomethyl)-1-tert-butoxycarbonylpiperidine (3.9 g) in 1,2-dimethoxyethane (50 ml) was stirred at ambient temperature for 5 hours. The solvent was removed in vacuo and the residue purified by flash chromatography over silica eluting with ether. Appropriate fractions were combined and the solvent evaporated to give 3-amino-N-(1-tert-butoxycarbonyl-4-piperidylmethyl)thiophene-2-carboxamide as a colourless solid (2.57 g).

reactant | 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione | 3.1 g | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
reactant | 4-(aminomethyl)-1-tert-butoxycarbonylpiperidine | 3.9 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 3-amino-N-(1-tert-butoxycarbonyl-4-piperidylmethyl)thiophene-2-carboxamide | 2.57 g | NC1=C(SC=C1)C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C16H25N3O3S
